US04785104
1-(3-Nitro-4-chlorophenyl)-3-(hydroxymethyl)-6,7-diethoxy-isoquinoline
4.98 g (0.0112 M) of 1-(3-nitro-4-chlorophenyl)-3-(acetoxymethyl)-6,7-diethoxy-isoquinoline is refluxed with 50 ml of a 10% aqueous sodium hydroxide solution for 5 hours. During the hydrolysis the product is precipitated . The suspension formed is cooled, filtered, washed with water to remove sodium hydroxide, and dried. The crude product (4.27 g) is purified by treating it with 45 ml of hot, anhydrous ethanol, the suspension is cooled with ice-water, filtered, washed with 3×5 ml of anhydrous ethanol and dried. Yield 3.94 g (87.4%), m. p. 187° to 188° C.

reactant | 1-(3-nitro-4-chlorophenyl)-3-(acetoxymethyl)-6,7-diethoxy-isoquinoline | 0.0112 M, 4.98 g | [N+](=O)([O-])C=1C=C(C=CC1Cl)C1=NC(=CC2=CC(=C(C=C12)OCC)OCC)COC(C)=O | C22H21ClN2O6
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-(3-Nitro-4-chlorophenyl)-3-(hydroxymethyl)-6,7-diethoxy-isoquinoline | [N+](=O)([O-])C=1C=C(C=CC1Cl)C1=NC(=CC2=CC(=C(C=C12)OCC)OCC)CO | C20H19ClN2O5
